US07692005B2
A dry 25 mL flask was charged with 2-Ethyl-5-methyl-2H-pyrazole-3-carboxylic acid (0.608 mg, 3.53 mmol) and thionyl chloride (10 mL) and allowed to stir at 79° C. for 2 h. The thionyl chloride was then removed by distillation. The crude acid chloride was cooled to room temperature, and then dissolved in THF (5 mL). 5-(4-Amino-benzoyl)-1,3-dihydro-indol-2-one (0.685 g, 2.72 mmol) was added to the THF solution of the acid chloride, and the mixture was allowed to reflux for 2 h. The reaction mixture was then allowed to cool to room temperature. The room temperature reaction mixture was concentrated in vacuo, and the crude residue was dissolved in EtOH (5 mL). The ethanolic solution was treated with 1M NaOH(aq) (2 mL) and stirred for 30 min. The basic solution was acidified to a pH of 1 with 1M HCl(aq) yielding a tan precipitate. The tan solids were filtered to afford pure 2-Ethyl-5-methyl-2H-pyrazole-3-carboxylic acid [4-(2-oxo-2,3-dihydro-1H-indole-5-carbonyl)-phenyl]-amide (0.760 g, 1.96 mmol, 72%).

reactant | 2-Ethyl-5-methyl-2H-pyrazole-3-carboxylic acid | 3.53 mmol, 0.608 mg | C(C)N1N=C(C=C1C(=O)O)C | C7H10N2O2
reactant | thionyl chloride | 10 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 5-(4-Amino-benzoyl)-1,3-dihydro-indol-2-one | 2.72 mmol, 0.685 g | NC1=CC=C(C(=O)C=2C=C3CC(NC3=CC2)=O)C=C1 | C15H12N2O2
solvent | THF | C1CCOC1 | C4H8O
product | 2-Ethyl-5-methyl-2H-pyrazole-3-carboxylic acid [4-(2-oxo-2,3-dihydro-1H-indole-5-carbonyl)-phenyl]-amide | 1.96 mmol, 0.760 g, 72% | O=C1NC2=CC=C(C=C2C1)C(=O)C1=CC=C(C=C1)NC(=O)C=1N(N=C(C1)C)CC | C22H20N4O3
